datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[C:61]1=[CH:62][N:10]=[CH:11][N-:12]1.F[C:43]1=[CH:44][CH:45]=[CH:46][C:41]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:42]1>>C[C:61]1=[CH:62][N:10]([C:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)[CH:11]=[N:12]1 10,11=10,20;12=11,12"
"C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.[H][C:11]1([H:10])[C:12](C(=O)OCC)=[CH:13][NH:14][CH:63]=[C:64]1C(=O)OCC>>C[N:21](C)[CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.[H][C:11]1=[C:12](C(=O)OCC)[CH:13]=[NH+:14][CH:63]=[C:64]1C(=O)OCC 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"C/[CH:63]=[CH:62]\[CH:11]=[CH2:10].C[N:21]([S:20]C(F)(F)F)[S:32](C1=CC=CC=C1)(=[O:33])=[O:34]>>C/[CH:63]=[CH:62]\[CH+:11][CH2:10][S:20]C(F)(F)F.C[N-:21][S:32](C1=CC=CC=C1)(=[O:33])=[O:34] 10,11=10,20;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].CN(C)C1=CC=C(C[C:10]2=[C:11]([O-:12])[O:82]C(C)(C)[O:72][C:61]2=[O:62])C=C1>>CC[O:34][C:32]([C:21]([CH:20]([C:10]1(CC2=CC=C(N(C)C)C=C2)[C:11](=[O:12])[O:82]C(C)(C)[O:72][C:61]1=[O:62])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.O=N[W:11]1234(N=O)([H:10])C5C1C2C3C54>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.O=N[W+:11]1234(N=O)C5C1C2C3C54 10,11=10,20"
"CC(C)(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].N#CC1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1>>CC(C)(C)[C:22](=[CH:21][CH:20]([CH:10](C1=CC=C(C#N)C=C1)[C:11](=[N+:12]1CCCC1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(/[C:11](=[CH:10]/[N+:61]2=[CH:61][CH:62]=[CH:63][C:73]3=[C:72]2C=CC=C3)[O-:12])C=C1.[C+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1>>C1=CC=C([C:11]([CH:10]([C:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[N+:61]2=[CH:61][CH:62]=[CH:63][C:73]3=[C:72]2C=CC=C3)=[O:12])C=C1 10,11=10,20;12=11,12"
"C[C:20]1=[CH:21][C:22](=[O:23])CCC1.C[N:12]1[CH:11]=[CH:10][C:61]2=[C:62]1[CH:63]=[CH:64][CH:73]=[CH:72]2>>C[N+:12]1=[CH:11][CH:10]([C:20]2(C)CCC[C:22]([O-:23])=[CH:21]2)[C:61]2=[C:62]1[CH:63]=[CH:64][CH:73]=[CH:72]2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN(C)C1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1.C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[C:71]1=[CH:72][CH:73]=[C:74](Cl)[CH:83]=[CH:82]1>>CN(C)C1=CC=C([CH:20]([H:10])[C:21](=[C:22]=[N-:23])[C:32]#[N:33])C=C1.C[Sn:63](C)(C)[CH2:62][CH+:11][C:71]1=[CH:72][CH:73]=[C:74](Cl)[CH:83]=[CH:82]1 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)[Si:63](C(C)C)(C(C)C)[O:12][CH:11]=[CH2:10].CC[O:33][C:22](/[CH:21]=[CH:20]/[C:41](=[O:42])[O:52]CC)=[O:23]>>CC[O:33][C:22](=[CH:21][CH:20]([CH2:10][CH:11]=[O+:12][Si:63](C(C)C)(C(C)C)C(C)C)[C:41](=[O:42])[O:52]CC)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(C(C2=CC=CC=C2)[C@@H]2CC[N:62]3C4=C(C=CC=C4)[S:72][C:61]3=[N:10]2)C=C1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([N+:10]1=[C:61]2[N:62](CC[C@H]1C(C1=CC=CC=C1)C1=CC=CC=C1)C1=C(C=CC=C1)[S:72]2)[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"CC[O:82][C:71]([C-:10]1CCCCCCCCCC[C:62]1=[O:61])=[O:72].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C1(C)C>>CC[O:82][C:71]([C:10]1([CH:20]([CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)CCCCCCCCCC[C:62]1=[O:61])=[O:72] 10=20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=CC=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1.[O+]#C[Mn-5:11](C#[O+])(C#[O+])(C#[O+])([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:10]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21](C[N+]2=CC=CC=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1.[O+]#C[Mn-4:11](C#[O+])(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20;20,21=21,22;22,23=23"
